US03987047
3-Amidino-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline
5 gm (23.6 millimols) of 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline were dissolved in 2.7 ml of glacial acetic acid and 20 ml of ethanol, and the solution was stirred at room temperature with 1.12 gm (26.6 millimols) of cyanamide for 72 hours. Thereafter, the product which had crystallized out was dissolved in water and reprecipitated with sodium hydroxide. Yield: 0.6 gm, 10% of theory; m.p. 140° C.

reactant | 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | 23.6 millimols, 5 gm | CC1=C2C(=NC=3C=CC=CC13)CCNCC2 | C14H16N2
reactant | cyanamide | 26.6 millimols, 1.12 gm | N#CN | CH2N2
solvent | acetic acid | 2.7 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-Amidino-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | C(N)(=N)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C | C15H18N4
